US08242133B2
A mixture of 1.5 g of 6-amino-1,1,3,3-tetrafluoro-5-hydroxy-1,3-dihydroisobenzofuran, 0.95 g of 3-fluoroisonicotinic acid, 1.68 g of WSC and 13 ml of pyridine was stirred while heating at 80° C. for two hours. The reaction mixture was cooled to room temperature, and then water was added, followed by extraction with ethyl acetate three times. The combined organic layers were washed with water and a saturated sodium chloride solution, dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to give 1.46 g of 3-fluoro-N-(1,1,3,3-tetrafluoro-6-hydroxy-1,3-dihydroisobenzofuran-5-yl)isonicotinamide.

reactant | 6-amino-1,1,3,3-tetrafluoro-5-hydroxy-1,3-dihydroisobenzofuran | 1.5 g | NC1=C(C=C2C(OC(C2=C1)(F)F)(F)F)O | C8H5F4NO2
reactant | 3-fluoroisonicotinic acid | 0.95 g | FC1=C(C(=O)O)C=CN=C1 | C6H4FNO2
reactant | WSC | 1.68 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | pyridine | 13 ml | N1=CC=CC=C1 | C5H5N
solvent | water | O | H2O
product | 3-fluoro-N-(1,1,3,3-tetrafluoro-6-hydroxy-1,3-dihydroisobenzofuran-5-yl)isonicotinamide | 1.46 g | FC1=C(C(=O)NC=2C=C3C(OC(C3=CC2O)(F)F)(F)F)C=CN=C1 | C14H7F5N2O3
